US09340538B2
Step B: 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(2,4,6-trifluorophenyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(2,4,6-trifluorophenyl)-1,4-dihydropyrimidine-5-carboxylate (1.21 g, 2.2 mmol) was reacted with morpholine-3-carboxylic acid (0.29 g, 2.2 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.44 g, 33%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(2,4,6-trifluorophenyl)-1,4-dihydropyrimidine-5-carboxylate | 2.2 mmol, 1.21 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C1=C(C=C(C=C1F)F)F | C20H14Br2F4N2O2
reactant | morpholine-3-carboxylic acid | 2.2 mmol, 0.29 g | N1C(COCC1)C(=O)O | C5H9NO3
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(2,4,6-trifluorophenyl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.44 g, 33% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C1=C(C=C(C=C1F)F)F)CN1C(COCC1)C(=O)O)C(=O)OCC | C25H22BrF4N3O5
